US06649641B2
Step 6: 3-(3,5-bis(Trifluoromethyl)phenyl)-1-(4-tert-butylcyclohexyl)-1-[4-(2-2H-tetrazol-5-yl-acetyl)benzyl]urea
1-{4-[(4-tert-Butylcyclohexylamino)methyl]phenyl}- 2-[2-(1-methoxy-1-methylethyl)-2H-tetrazol-5-yl]ethanone (320 mg, 0.75 mmol) was dissolved in THF (5 ml), and 3,5-bis(trifluoromethyl)phenyl isocyanate (191 mg, 0.75 mmol) was added. The reaction mixture was stirred at room temperature for 2 hours and then taken to dryness by rotary evaporation. The residue was stripped twice from acetonitrile to give 450 mg (88%) of title material.

reactant | 1-{4-[(4-tert-Butylcyclohexylamino)methyl]phenyl}- 2-[2-(1-methoxy-1-methylethyl)-2H-tetrazol-5-yl]ethanone | 0.75 mmol, 320 mg | C(C)(C)(C)C1CCC(CC1)NCC1=CC=C(C=C1)C(CC=1N=NN(N1)C(C)(C)OC)=O | C24H37N5O2
reactant | 3,5-bis(trifluoromethyl)phenyl isocyanate | 0.75 mmol, 191 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=O)(F)F | C9H3F6NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-(3,5-bis(Trifluoromethyl)phenyl)-1-(4-tert-butylcyclohexyl)-1-[4-(2-2H-tetrazol-5-yl-acetyl)benzyl]urea | 450 mg, 88% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(N(CC1=CC=C(C=C1)C(CC=1N=NNN1)=O)C1CCC(CC1)C(C)(C)C)=O)(F)F | C29H32F6N6O2
